US07157455B2
The same procedure as described in Example 81 was used, starting from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt, Example 59, and morpholin-4-yl-acetic acid (Aldrich) to give 1-[4-[4-amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidin-1-yl]-2-morpholin-4-yl-ethanone. MS (M+H)+: 473.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCNCC1
reactant | morpholin-4-yl-acetic acid | N1(CCOCC1)CC(=O)O | C6H11NO3
product | 1-[4-[4-amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidin-1-yl]-2-morpholin-4-yl-ethanone | NC1=NC(=NC=C1C(C1=C(C=CC(=C1)F)OC)=O)NC1CCN(CC1)C(CN1CCOCC1)=O | C23H29FN6O4
